US07256201B2
3) Synthetic Method H: Synthesis of 6-methoxy-2-(4-methoxy-phenyl)-1-methyl-1,2,3,4-tetrahydro-isoquinoline
N-(4-Methoxy-phenyl)-N-[2-(3-methoxyphenyl)-ethyl]-acetamide (0.60 g) was heated to 80° C. in phosphorus oxychloride (8.4 mL) for 24 h. The reaction was cooled then poured slowly onto ice (150 mL). Potassium iodide (0.65 g) was added. After 30 min, the mixture was extracted with methylene chloride (2×50 mL). The organic extracts were dried over sodium sulfate, filtered through celite and concentrated. The resulting residue was dissolved in methanol (21 mL) and sodium borohydride (0.23 g) was added slowly in small portions. After 18 h the solvent was removed under reduced pressure. The residue was partitioned between water (100 mL) and ethyl acetate (50 mL) and the aqueous layer was extracted with ethyl acetate (25 mL). The combined organic extracts were dried over sodium sulfate, filtered through celite and concentrated giving the title compound MS: 284.3 (MH+); HPLC tR; 2.11 min (method D).

reactant | N-(4-Methoxy-phenyl)-N-[2-(3-methoxyphenyl)-ethyl]-acetamide | 0.60 g | COC1=CC=C(C=C1)N(C(C)=O)CCC1=CC(=CC=C1)OC | C18H21NO3
reactant | Potassium iodide | 0.65 g | [I-].[K+]
solvent | phosphorus oxychloride | 8.4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 6-methoxy-2-(4-methoxy-phenyl)-1-methyl-1,2,3,4-tetrahydro-isoquinoline | COC=1C=C2CCN(C(C2=CC1)C)C1=CC=C(C=C1)OC | C18H21NO2
